US04937343
Preparation of 2-(3-(4-(2-pyrimidinyl)-1-piperazinyl)propyl)-7-methoxy-1,2,4-benzothiadiazin-3(4H)one 1,1-dioxide
0.01 mol of 2-(3-bromopropyl)-7-methoxy-1,2,4-benzothiadiazin-3(4H)one 1,1-dioxide, 0.012 mol of 1-(2-pyrimidinyl)piperazine and 0.01 mol of triethylamine are dissolved in 30 ml of DMF and the solution is heated at 60° C., with stirring, for 1.5 hours. Then 15 ml of water are added and the reaction mixture is cooled to 0° C. The substance which crystallises out during this is filtered off with suction, stirred with isopropanol, again filtered off with suction and dried in vacuo.

reactant | 2-(3-bromopropyl)-7-methoxy-1,2,4-benzothiadiazin-3(4H)one 1,1-dioxide | 0.01 mol | BrCCCN1S(C2=C(NC1=O)C=CC(=C2)OC)(=O)=O | C11H13BrN2O4S
reactant | 1-(2-pyrimidinyl)piperazine | 0.012 mol | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | triethylamine | 0.01 mol | C(C)N(CC)CC | C6H15N
reactant | water | 15 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-(3-(4-(2-pyrimidinyl)-1-piperazinyl)propyl)-7-methoxy-1,2,4-benzothiadiazin-3(4H)one 1,1-dioxide | N1=C(N=CC=C1)N1CCN(CC1)CCCN1S(C2=C(NC1=O)C=CC(=C2)OC)(=O)=O | C19H24N6O4S
